US07211672B2
(±)-Cis-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-4-(N-4-chlorophenyl)aminoquinoline (14)
To a solution of (±)-cis-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-4-aminoquinoline (423 mg, 1.36 mmol) in DMF (15 mL, dry) was added 4-chlorophenylboronic acid (425 mg, 2.72 mmol), pyridine (322 mg, 330 uL, 4.08 mmol) and copper(II)acetate (494 mg, 2.72 mmol). The heterogeneous green mixture was stirred open to air for 1 h and then warmed to 60° C. and stirred over night (14 h). The mixture was then cooled to rt, poured into rapidly stirred ethyl acetate (150 mL); solids were removed by filtration. The extracts were washed several times with water and then once with brine.

reactant | (±)-cis-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-4-aminoquinoline | 1.36 mmol, 423 mg | CN(C1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N)C)C=C1)C | C19H23N3O
reactant | 4-chlorophenylboronic acid | 2.72 mmol, 425 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | pyridine | 4.08 mmol, 330 uL, 322 mg | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | copper(II)acetate | 2.72 mmol, 494 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (±)-Cis-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-4-(N-4-chlorophenyl)aminoquinoline | CN(C1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)NC2=CC=C(C=C2)Cl)C)C=C1)C | C25H26ClN3O
